US03937700
A solution of 0.35 g of 6-fluoro-17α-hydroxy-1,2-methylene-9β,10α-pregna-4,6-diene-3,20-dione in 35 ml of dimethylformamide and 17.5 ml of methyliodide is stirred at 20°C for 70 hours in the presence of 3.5 g of silver oxide. Then the solid substance is filtered off and the filtrate is extracted subsequent to decanting in water, from methylene chloride and the resultant extract is evaporated to dryness after having been washed to neutral and subsequent to drying. The residue yields, subsequent to chromatography on silicagel, 6-fluoro-17α-methoxy-1,2-methylene-9β,10α-pregna-4,6-diene-3,20-dione.

reactant | 6-fluoro-17α-hydroxy-1,2-methylene-9β,10α-pregna-4,6-diene-3,20-dione | 0.35 g | FC1=C[C@H]2[C@@H]3CC[C@](C(C)=O)([C@]3(CC[C@H]2[C@@]2(C3C(C(C=C12)=O)C3)C)C)O | C22H27FO3
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | methyliodide | 17.5 ml | CI | CH3I
catalyst | silver oxide | 3.5 g | [Ag]=O
product | 6-fluoro-17α-methoxy-1,2-methylene-9β,10α-pregna-4,6-diene-3,20-dione | FC1=C[C@H]2[C@@H]3CC[C@](C(C)=O)([C@]3(CC[C@H]2[C@@]2(C3C(C(C=C12)=O)C3)C)C)OC | C23H29FO3
